US08664216B2
b) 1′-(8-Chloro-5-methyl-5,6-dihydro-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-1-yl)-1H-spiro[isochromene-4,4′-piperidine]
A mixture of the crude 1′-(8-chloro-5,6-dihydro-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-1-yl)-1H-spiro[isochromene-4,4′-piperidine] (0.10 g, 0.24 mmol) and paraformaldehyde (0.057 g, 1.9 mmol) in methanol (2 ml) was heated at reflux for 4 h. After cooling to room temperature sodium cyanoborohydride (0.03 g, 0.47 mmol) was added at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 18 h. Quenching with 1 M aqueous sodium hydroxide solution (30 ml) was followed by extraction with ethyl acetate.

reactant | 1′-(8-chloro-5,6-dihydro-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-1-yl)-1H-spiro[isochromene-4,4′-piperidine] | 0.24 mmol, 0.10 g | ClC=1C=CC2=C(CNCC=3N2C(=NN3)N3CCC2(CC3)COCC3=CC=CC=C32)C1 | C23H24ClN5O
reactant | paraformaldehyde | 1.9 mmol, 0.057 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.47 mmol, 0.03 g | C(#N)[BH3-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | 1′-(8-Chloro-5-methyl-5,6-dihydro-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-1-yl)-1H-spiro[isochromene-4,4′-piperidine] | ClC=1C=CC2=C(CN(CC=3N2C(=NN3)N3CCC2(CC3)COCC3=CC=CC=C32)C)C1 | C24H26ClN5O
